US04127661
(b) N(3-phenylthio-1-propyl)piperazine
To 1000 ml methyl ethyl ketone are added 3-phenylthio-1-chloro-propane (1 mole), sodium iodide (1 mole) and anhydrous piperazine (4 moles). The resulting mixture is refluxed during 24 hours, with stirring, after which the solvent is evaporated in vacuo, the residue is taken up into water and ether. The ether phase is washed with water, dried and concentrated. The residue is distilled in vacuo. B.p. = 140° C./0.05 mm Hg. N.M.R.: consistent.

reactant | 3-phenylthio-1-chloro-propane | 1 mole | C1(=CC=CC=C1)SCCCCl | C9H11ClS
reactant | sodium iodide | 1 mole | [I-].[Na+]
reactant | piperazine | 4 moles | N1CCNCC1 | C4H10N2
solvent | methyl ethyl ketone | 1000 ml | C(C)C(=O)C | C4H8O
product | N(3-phenylthio-1-propyl)piperazine | C1(=CC=CC=C1)SCCCN1CCNCC1 | C13H20N2S
